data/mechanism_extracts/ChemCommun/10.1039_d5cc00744e.json
{"doi": "10.1039_d5cc00744e", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Electroreductive dual-radical tri-/difluoromethylarylation of alkenes coupling cyanoarenes with (di/tri)fluoromethylsulfones using a sacrificial Zn anode and a naphthalene-type mediator (Med-1)", "mechanism_family": ["radical_cathodic", "mediator_cathodic", "sacrificial_anode", "radical_anion", "direct_SET"], "electrochemical_role": "Cathodic reduction generates two radicals: cyanoarene (2) is reduced to its radical anion (I), which then mediates SET to the fluoroalkylsulfone (3aa) to release CF3 radical; in parallel, Med-1 is cathodically reduced to its radical anion which provides an alternative SET pathway to 3aa. Zn sacrificial anode supplies electrons by oxidation.", "key_intermediates": [{"name": "cyanoarene radical anion (I)", "smiles": null, "role": "reactive"}, {"name": "trifluoromethyl radical (II, CF3•)", "smiles": "[CH0](F)(F)F", "role": "reactive"}, {"name": "benzyl radical adduct from CF3• + alkene (III)", "smiles": null, "role": "reactive"}, {"name": "Med-1 radical anion (reduced naphthalene mediator)", "smiles": null, "role": "reactive"}, {"name": "sulfinate anion (ArSO2-) released as byproduct", "smiles": null, "role": "transient"}, {"name": "cyanide anion released upon radical/radical-anion coupling", "smiles": "[C-]#N", "role": "transient"}], "electron_flow": "At the cathode, cyanoarene 2 (and/or Med-1) is reduced by one electron to a persistent radical anion, which performs SET to the fluoroalkylsulfone 3aa to fragment it into ArSO2- and CF3•; CF3• adds to alkene 1 forming a benzyl radical (III) that undergoes radical/radical-anion cross-coupling with the cyanoarene radical anion (I), expelling CN- to give the arylated product. Electrons originate from oxidation of the sacrificial Zn anode.", "rate_determining_step": null, "probe_reagents": [{"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Products 4aa and 7aa were not obtained in its presence, consistent with radical intermediates"}, {"name": "HRMS detection of CF2H adduct", "smiles": null, "purpose": "intermediate_trap", "observation": "Difluoromethyl radical captured and detected by HRMS; aryl radical and CF3 radical not observed directly"}, {"name": "radical clock substrate", "smiles": null, "purpose": "radical_clock", "observation": "Ring-opened products 10 and 11 formed in 56% and 43% yield, supporting a dual-radical mechanism"}, {"name": "cyclic voltammetry of 1aa/2aa/3aa/Med-1", "smiles": null, "purpose": "redox_probe", "observation": "1aa not reduced in window; 2aa reversible Ered = -1.86 V; 3aa irreversible Ered = -2.05 V; Med-1 reversible Ered = -2.86 V; addition of 3aa enhances catalytic current of 2aa and suppresses oxidation, indicating SET from 2aa•- to 3aa; 3aa/Med-1 mixture shows decreased oxidation and increased catalytic current of Med-1, confirming SET; 2aa charge consumption 6.9 F/mol indicates multi-step SET chain"}], "evidence_types_used": ["radical_clock", "intermediate_trap_other", "cyclic_voltammetry", "kinetic_order"], "evidence_strength": "medium", "notes": "Two cathodic SET pathways operate in parallel: (a) direct reduction of cyanoarene 2 to its radical anion, which reduces sulfone 3aa to CF3•; (b) Med-1-mediated pathway in which the naphthalene mediator radical anion reduces 3aa. Multi-step SET chain mechanism is invoked given charge consumption far exceeds 1 F/mol. Final C–C bond formation is proposed as radical/radical-anion cross-coupling with extrusion of CN-, rather than radical addition followed by rearomatization."}
